US05955461
1.1 g of 2,4-difluoronitrobenzene is heated with 2.8 g of aminomethanephosphonic acid diethyl ester for 2 hours to 40° C. Then, it is chromatographed on silica gel with methylene chloride:ethanol=10:1. 1.6 g of N-(2-nitro-5-fluorophenyl)aminomethanephosphonic acid diethyl ester is obtained.

reactant | 2,4-difluoronitrobenzene | 1.1 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | aminomethanephosphonic acid diethyl ester | 2.8 g | C(C)OP(OCC)(=O)CN | C5H14NO3P
product | N-(2-nitro-5-fluorophenyl)aminomethanephosphonic acid diethyl ester | 1.6 g | C(C)OP(OCC)(=O)CNC1=C(C=CC(=C1)F)[N+](=O)[O-] | C11H16FN2O5P
